US08703953B2
A mixture of 4-bromo-2-(prop-2-ynyloxy)benzaldehyde (0.852 g, 3.56 mmol) and formylmethylenetriphenylphosphorane (2.2 g, 7.12 mmol, 2 equiv) suspended in THF (20 mL) under nitrogen was stirred at ambient temperature for 18 h and then at 50° C. for another 24 h. The reaction mixture was filtered through a bed of silica gel (˜25 g) eluting with EtOAc:hexane (1:4, 300 mL). The filtrate was concentrated under reduced pressure and the residue was purified by silica gel chromatography using a linear gradient of EtOAc:hexane (1:19 to 1:9). Pooled fractions containing the title compound and its Z-isomer in the ratio of (39:11, by NMR) was concentrated under reduced pressure to give (E)-3-(4-bromo-2-(prop-2-ynyloxy)phenyl)acrylaldehyde (0.69 g, 2.6 mmol, 57% yield). 1H NMR (500 MHz, CDCl3) δ 9.71 (d, J=7.6 Hz, 1H), 7.77 (d, J=16.2 Hz, 1H), 7.45 (d, J=8.2 Hz, 1H), 7.26-7.17 (m, 2H), 6.77 (dd, J=16.2, 7.6 Hz, 1H), 4.82 (d, J=2.4 Hz, 1H), 4.80-4.75 (m, 1H), 2.62 (t, J=2.4 Hz, 1H). The Z-isomer showed the aldehydic proton at δ 9.87 (d, J=7.9 Hz) and a smaller cis-coupling (J=11.4 Hz) for the olefinic proton at δ 6.22; LCMS (Method B) (ESI) m/e 265.0, 267.0 Br pattern [(M+H)+, calcd for C12H9BrO2 265.0].

reactant | 4-bromo-2-(prop-2-ynyloxy)benzaldehyde | 3.56 mmol, 0.852 g | BrC1=CC(=C(C=O)C=C1)OCC#C | C10H7BrO2
reactant | formylmethylenetriphenylphosphorane | 7.12 mmol, 2.2 g, 2 equiv | C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17OP
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (E)-3-(4-bromo-2-(prop-2-ynyloxy)phenyl)acrylaldehyde | 2.6 mmol, 0.69 g, 57% yield | BrC1=CC(=C(C=C1)/C=C/C=O)OCC#C | C12H9BrO2
